US04342781
N-(1-Methyldecyl)-3-phenyl-3-(3-nitrophenyl)propenamide
The title compound was prepared from 3-phenyl-3-(3-nitrophenyl)propenoic acid via mixed anhydride formation using ethyl chloroformate, followed by reaction with 1-methyldecylamine, substantially according to the procedure of Preparation 21. This gave a 92% yield of an oil.

reactant | 3-phenyl-3-(3-nitrophenyl)propenoic acid | C1(=CC=CC=C1)C(=CC(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C15H11NO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 1-methyldecylamine | CC(CCCCCCCCC)N | C11H25N
product | N-(1-Methyldecyl)-3-phenyl-3-(3-nitrophenyl)propenamide | CC(CCCCCCCCC)NC(C=C(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C26H34N2O3
